US08791129B2
[2-Amino-6-(2-chloromethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone
218 μl of thionyl chloride are added dropwise to 622 mg of [2-amino-6-(2-hydroxymethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 50 ml of dichloromethane, and the mixture is stirred at 25° C. for 2 h. The mixture is evaporated to dryness in vacuo, the residue is taken up in 10 ml of toluene, and the operation is repeated. The residue is employed in the subsequent reactions without further treatment.

reactant | thionyl chloride | 218 μl | S(=O)(Cl)Cl | Cl2OS
reactant | [2-amino-6-(2-hydroxymethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 622 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CO | C24H19FN4O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [2-Amino-6-(2-chloromethyl-5-fluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=CC(=C1)F)CCl | C24H18ClFN4O
